US04439229
Step B: N-(3-Amino-4-chlorophenyl)-3,4,5,6-tetrahydrophthalimide
To a solution of 40 g of N-(3-nitro-4-chlorophenyl)-3,4,5,6-tetrahydrophthalimide in 900 ml. of MeOH and 100 ml. of EtOAc in a hydrogenation bottle is added 0.5 g PtO2. The bottle is purged with hydrogen then pressurized to 50 psig and shaken until the required amount of H2 was used. The reaction mixture was filtered through celite, washed well with CH2Cl2 and the combined organic phases concentrated in vacuo to yield 29 g of the product. This product was used without further purification in subsequent transformations.

reactant | N-(3-nitro-4-chlorophenyl)-3,4,5,6-tetrahydrophthalimide | 40 g | [N+](=O)([O-])C=1C=C(C=CC1Cl)N1C(C2=C(C1=O)CCCC2)=O | C14H11ClN2O4
reactant | MeOH | CO | CH4O
catalyst | PtO2 | 0.5 g | O=[Pt]=O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(3-Amino-4-chlorophenyl)-3,4,5,6-tetrahydrophthalimide | 29 g | NC=1C=C(C=CC1Cl)N1C(C2=C(C1=O)CCCC2)=O | C14H13ClN2O2
